US04051254
A. 3-methyl-4-nitrophenyl N-methylcarbamate
3-Methyl-4-nitrophenol (46.0g., 0.30 mole) was dissolved in tetrahydrofuran (200 ml.) and triethylamine (2 ml.). To this solution was added dropwise methylisocyanate (18.8g., 0.33 mole, 25 ml.) which resulted in an exotherm to about 40° C. Refluxing for one hour, followed by quenching in excess water, yieldig a light tan precipitate. After filtration and drying the material (51g.) melted at .99°-101° C.

reactant | 3-Methyl-4-nitrophenol | 0.30 mole, 46.0g | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | methylisocyanate | 0.33 mole, 25 ml, 18.8g | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 3-methyl-4-nitrophenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C9H10N2O4
